74HC4017 decade count function
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://assets.nexperia.com/documents/data-sheet/74HC_HCT4017.pdf
* Revision: Rev. 8, 27 March 2024
* Archetype: archetype-logic74hc.md
* Fitted at 25 degC from the VCC = 4.5 V table column.
.subckt OC_NEXPERIA_74HC4017_OUT IN Y VCC GND
BDRV yd GND V = min(max(v(IN)*v(VCC,GND),0),v(VCC,GND))
RDRV yd Y R={37.5+(45.0-37.5)*0.5*(1+tanh(12*(v(IN)-0.5)))}
.ends OC_NEXPERIA_74HC4017_OUT
.subckt OC_NEXPERIA_74HC4017_DFF D CLK Q QB SETN CLRN VCC GND
+ PARAMS: KIN=20 KREG=25 TAU=1.0000000000e-08 VSKEW=0.05
RID D GND 1e11
RIC CLK GND 1e11
RISET SETN GND 1e11
RICLR CLRN GND 1e11
BC c GND V = 0.5*(1+tanh(KIN*(v(CLK,GND)/v(VCC,GND)-0.5)))
BD dd GND V = 0.5*(1+tanh(KIN*(v(D,GND)/v(VCC,GND)-0.5)))
BSET st GND V = 0.5*(1+tanh(KIN*(v(SETN,GND)/v(VCC,GND)-0.5)))
BCLR cl GND V = 0.5*(1+tanh(KIN*(v(CLRN,GND)/v(VCC,GND)-0.5)))
BMA mad GND V = (v(cl)<0.5) ? ((v(st)<0.5) ? 1 : 0) : ((v(st)<0.5) ? 1 : ((v(c)<0.5) ? v(dd) : 0.5*(1-tanh(KREG*(v(mb)-0.5)))))
RMA mad ma {TAU/1p}
CMA ma GND 1p
BMB mbd GND V = (v(cl)<0.5) ? 1 : ((v(st)<0.5) ? ((v(cl)<0.5) ? 1 : 0) : 0.5*(1-tanh(KREG*(v(ma)-0.5))) + VSKEW)
RMB mbd mb {TAU/1p}
CMB mb GND 1p
BSA sad GND V = (v(cl)<0.5) ? ((v(st)<0.5) ? 1 : 0) : ((v(st)<0.5) ? 1 : ((v(c)>0.5) ? v(ma) : 0.5*(1-tanh(KREG*(v(sb)-0.5)))))
RSA sad sa {TAU/1p}
CSA sa GND 1p
BSB sbd GND V = (v(cl)<0.5) ? 1 : ((v(st)<0.5) ? ((v(cl)<0.5) ? 1 : 0) : 0.5*(1-tanh(KREG*(v(sa)-0.5))) + VSKEW)
RSB sbd sb {TAU/1p}
CSB sb GND 1p
XQ sa Q VCC GND OC_NEXPERIA_74HC4017_OUT
XQB sb QB VCC GND OC_NEXPERIA_74HC4017_OUT
.ends OC_NEXPERIA_74HC4017_DFF
.subckt OC_NEXPERIA_74HC4017 CP0 CP1 MR Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q5_9B VCC GND
RIc0 CP0 GND 1e11
BIc0 c0 GND V = 0.5*(1+tanh(20*(v(CP0,GND)/v(VCC,GND)-0.5)))
RIc1 CP1 GND 1e11
BIc1 c1 GND V = 0.5*(1+tanh(20*(v(CP1,GND)/v(VCC,GND)-0.5)))
RImrn MR GND 1e11
BImrn mrn GND V = 0.5*(1+tanh(20*(v(MR,GND)/v(VCC,GND)-0.5)))
BCLK clkx GND V = v(VCC,GND)*v(c0)*(1-v(c1))
BCLRN clrn GND V = v(VCC,GND)*(1-v(mrn))
BIN0 d0 GND V = v(b4)
XFF0 d0 clkx s0 b0 VCC clrn VCC GND OC_NEXPERIA_74HC4017_DFF
XFF1 s0 clkx s1 b1 VCC clrn VCC GND OC_NEXPERIA_74HC4017_DFF
XFF2 s1 clkx s2 b2 VCC clrn VCC GND OC_NEXPERIA_74HC4017_DFF
XFF3 s2 clkx s3 b3 VCC clrn VCC GND OC_NEXPERIA_74HC4017_DFF
XFF4 s3 clkx s4 b4 VCC clrn VCC GND OC_NEXPERIA_74HC4017_DFF
BN0 n0 GND V = v(s0)/v(VCC,GND)
BN1 n1 GND V = v(s1)/v(VCC,GND)
BN2 n2 GND V = v(s2)/v(VCC,GND)
BN3 n3 GND V = v(s3)/v(VCC,GND)
BN4 n4 GND V = v(s4)/v(VCC,GND)
BD0 o0 GND V = (1-v(n0))*(1-v(n1))*(1-v(n2))*(1-v(n3))*(1-v(n4))
XO0 o0 Q0 VCC GND OC_NEXPERIA_74HC4017_OUT
BD1 o1 GND V = v(n0)*(1-v(n1))*(1-v(n2))*(1-v(n3))*(1-v(n4))
XO1 o1 Q1 VCC GND OC_NEXPERIA_74HC4017_OUT
BD2 o2 GND V = v(n0)*v(n1)*(1-v(n2))*(1-v(n3))*(1-v(n4))
XO2 o2 Q2 VCC GND OC_NEXPERIA_74HC4017_OUT
BD3 o3 GND V = v(n0)*v(n1)*v(n2)*(1-v(n3))*(1-v(n4))
XO3 o3 Q3 VCC GND OC_NEXPERIA_74HC4017_OUT
BD4 o4 GND V = v(n0)*v(n1)*v(n2)*v(n3)*(1-v(n4))
XO4 o4 Q4 VCC GND OC_NEXPERIA_74HC4017_OUT
BD5 o5 GND V = v(n0)*v(n1)*v(n2)*v(n3)*v(n4)
XO5 o5 Q5 VCC GND OC_NEXPERIA_74HC4017_OUT
BD6 o6 GND V = (1-v(n0))*v(n1)*v(n2)*v(n3)*v(n4)
XO6 o6 Q6 VCC GND OC_NEXPERIA_74HC4017_OUT
BD7 o7 GND V = (1-v(n0))*(1-v(n1))*v(n2)*v(n3)*v(n4)
XO7 o7 Q7 VCC GND OC_NEXPERIA_74HC4017_OUT
BD8 o8 GND V = (1-v(n0))*(1-v(n1))*(1-v(n2))*v(n3)*v(n4)
XO8 o8 Q8 VCC GND OC_NEXPERIA_74HC4017_OUT
BD9 o9 GND V = (1-v(n0))*(1-v(n1))*(1-v(n2))*(1-v(n3))*v(n4)
XO9 o9 Q9 VCC GND OC_NEXPERIA_74HC4017_OUT
BCY cy GND V = v(o0)+v(o1)+v(o2)+v(o3)+v(o4)
XCY cy Q5_9B VCC GND OC_NEXPERIA_74HC4017_OUT
.ends OC_NEXPERIA_74HC4017
.temp 25
VCC vcc 0 4.5
VMR mr 0 PWL(0 4.5 0.1u 4.5 0.11u 0)
VCP1 cp1 0 0
VCP0 cp0 0 PULSE(0 4.5 0.5u 3n 3n 0.3u 1u)
X1 cp0 cp1 mr q0 q1 q2 q3 q4 q5 q6 q7 q8 q9 cy vcc 0 OC_NEXPERIA_74HC4017
.tran 1n 4u
.measure tran q3_final FIND v(q3) AT=3.3u
.measure tran q2_final FIND v(q2) AT=3.3u
.end
